datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[NH+](C)CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[NH+](C)CC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cc(C)c2cccc([O:21][H:20])c2n1.Nc1ccc(S(=O)(=O)[N-:10]c2nccs2)cc1/N=N/c1ccccc1>>Cc1cc(C)c2cccc([O-:21])c2n1.Nc1ccc(S(=O)(=O)[N:10](c2nccs2)[H:20])cc1/N=N/c1ccccc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].OC(C[NH2:10])c1ccc(Cl)cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OC(C[NH2+:10][H:20])c1ccc(Cl)cc1 10=20;20,21=21",
"COP(=O)(NS(C)(=O)=O)[O-:10].COc1ccc(-c2ncc(-c3ccc([NH2+:21][H:20])cc3)o2)cc1>>COP(=O)(NS(C)(=O)=O)[O:10][H:20].COc1ccc(-c2ncc(-c3ccc([NH2:21])cc3)o2)cc1 10=20;20,21=21",
"N[C@H]1C[C@H]2CCCC[C@@H]2C[C@@H]1[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>N[C@H]1C[C@H]2CCCC[C@@H]2C[C@@H]1[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C#CC#CC=C=CC(O)CCC(=O)[O-:10].CC(C#N)CC(=O)[O:21][H:20]>>C#CC#CC=C=CC(O)CCC(=O)[O:10][H:20].CC(C#N)CC(=O)[O-:21] 10=20;20,21=21",
"N#CC(C#N)=[N+:21](Nc1ccc(OC(F)(F)F)cc1)[H:20].Nc1ncnc2c1nc[n-:10]2>>N#CC(C#N)=[N:21]Nc1ccc(OC(F)(F)F)cc1.Nc1ncnc2c1nc[n:10]2[H:20] 10=20;20,21=21",
"CC(C)n1c(N)[n+:21]([H:20])c2ccc(C(=CC(N)=O)c3cccc(F)c3F)cc21.CCOC(=O)C[NH2:10]>>CC(C)n1c(N)[n:21]c2ccc(C(=CC(N)=O)c3cccc(F)c3F)cc21.CCOC(=O)C[NH2+:10][H:20] 10=20;20,21=21",
"C=CC[N+:21]1([H:20])CC[C@]23c4c5ccc(O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.O=C(CSc1ccccc1)[O-:10]>>C=CC[N:21]1CC[C@]23c4c5ccc(O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.O=C(CSc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CN(C)P(N(C)C)(N(C)C)=[O+:21][H:20].Cc1cnc([N-:10]S(=O)(=O)c2ccc(N)cc2)nc1C>>CN(C)P(N(C)C)(N(C)C)=[O:21].Cc1cnc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])nc1C 10=20;20,21=21",
"CC(C)(O)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=CC=C2)[H:20])=C1>>CC(C)(O)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=CC=C2)=C1 10=20;20,21=21",
"COc1cc[n:10]nc1.C[N+](C)(C)Cc1cccc([O:21][H:20])c1>>COc1cc[n+:10]([H:20])nc1.C[N+](C)(C)Cc1cccc([O-:21])c1 10=20;20,21=21",
"Nc1n(-c2ccccc2)nn[n:10]1.O=C(c1cc([N+](=O)[O-])ccc1O)[O:21][H:20]>>Nc1n(-c2ccccc2)nn[n+:10]1[H:20].O=C(c1cc([N+](=O)[O-])ccc1O)[O-:21] 10=20;20,21=21",
"CC[NH+:21](CCC(=O)[O-])[H:20].O=C([O-])C[NH+](CC[N-:10]S(=O)(=O)c1ccccc1)CC(=O)[O-]>>CC[NH:21]CCC(=O)[O-].O=C([O-])C[NH+](CC[N:10](S(=O)(=O)c1ccccc1)[H:20])CC(=O)[O-] 10=20;20,21=21",
"CC(C)C1=CC2=CC[C@H]3[C@@](C)(CCC[C@]3(C)C(=O)[O:21][H:20])[C@@H]2CC1.O=[N+]([O-])c1cc(Cl)ccc1[O-:10]>>CC(C)C1=CC2=CC[C@H]3[C@@](C)(CCC[C@]3(C)C(=O)[O-:21])[C@@H]2CC1.O=[N+]([O-])c1cc(Cl)ccc1[O:10][H:20] 10=20;20,21=21",
"CC(CC#N)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(CC#N)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1CC[N:10]2CCCCN2C1.Cc1cc(C)[n+:21]([H:20])c2c(C)cccc12>>C1CC[N+:10]2([H:20])CCCCN2C1.Cc1cc(C)[n:21]c2c(C)cccc12 10=20;20,21=21",
"CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N:21](c1nccs1)[H:20].O=C([O-])C[N:10](CC(=O)[O-])Cc1nc2ccccc2[nH]1>>CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N-:21]c1nccs1.O=C([O-])C[N+:10](CC(=O)[O-])(Cc1nc2ccccc2[nH]1)[H:20] 10=20;20,21=21",
"CC[SH+]C(C)(O)[O-:10].NCC(=O)C[NH2+:21][H:20]>>CC[SH+]C(C)(O)[O:10][H:20].NCC(=O)C[NH2:21] 10=20;20,21=21",
"CC(C)(C)c1cccc(C(C)(C)C)[n+:21]1[H:20].[O-]c1cncc[n:10]1>>CC(C)(C)c1cccc(C(C)(C)C)[n:21]1.[O-]c1cncc[n+:10]1[H:20] 10=20;20,21=21",
"Nc1nc2[nH]cnc2c([O-])[n+:21]1[H:20].c1cnc2ccc([S-:10])cc2c1>>Nc1nc2[nH]cnc2c([O-])[n:21]1.c1cnc2ccc([S:10][H:20])cc2c1 10=20;20,21=21",
"CCCC(=O)C1(c2cccc(O)c2)CC[N:10](C)CC1.O=C1C=Cc2ccccc2C=C1[O:21][H:20]>>CCCC(=O)C1(c2cccc(O)c2)CC[N+:10](C)([H:20])CC1.O=C1C=Cc2ccccc2C=C1[O-:21] 10=20;20,21=21",
"COC(=O)Nc1ncnc2c1[nH]c[n+:21]2[H:20].c1ccc2c(c1)Cc1cc([O-:10])ccc1-2>>COC(=O)Nc1ncnc2c1[nH]c[n:21]2.c1ccc2c(c1)Cc1cc([O:10][H:20])ccc1-2 10=20;20,21=21",
"Nc1nc([S-])c2c(nc[n-:10]2)n1.O=C1C=CC(=N[O:21][H:20])C=C1>>Nc1nc([S-])c2c(nc[n:10]2[H:20])n1.O=C1C=CC(=N[O-:21])C=C1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cncc(CCCC[NH2:10])c1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cncc(CCCC[NH2+:10][H:20])c1 10=20;20,21=21",
"C[N:10](C)c1ccc(Cl)cc1.O=C(C[NH2+:21][H:20])Nc1ccccc1>>C[N+:10](C)(c1ccc(Cl)cc1)[H:20].O=C(C[NH2:21])Nc1ccccc1 10=20;20,21=21",
"CC1=Nc2cc(C)ccc2[N:10]=C(C)C1.CN1C=Cc2ccccc2/C1=[O+:21]/[H:20]>>CC1=Nc2cc(C)ccc2[N+:10]([H:20])=C(C)C1.CN1C=Cc2ccccc2C1=[O:21] 10=20;20,21=21",
"CSc1cc2ccccc2c[n+:21]1[H:20].c1cncc([S-:10])c1>>CSc1cc2ccccc2c[n:21]1.c1cncc([S:10][H:20])c1 10=20;20,21=21",
"C1CCc2c(n[n:10]c3c2CCCC3)C1.CC[NH+:21](C(C)C(=O)[O-])[H:20]>>C1CCc2c(n[n+:10]([H:20])c3c2CCCC3)C1.CC[NH:21]C(C)C(=O)[O-] 10=20;20,21=21",
"CCCC[N+:21](CCCl)(CCCl)[H:20].CSc1nc[n:10]c2[nH]ncc12>>CCCC[N:21](CCCl)CCCl.CSc1nc[n+:10]([H:20])c2[nH]ncc12 10=20;20,21=21",
"C[Se](C)=[O:10].Cc1cc(C)[n+:21]([H:20])c(NS(=O)(=O)c2ccc([NH3+])cc2)n1>>C[Se](C)=[O+:10][H:20].Cc1cc(C)[n:21]c(NS(=O)(=O)c2ccc([NH3+])cc2)n1 10=20;20,21=21",
